US09034866B2
10-Bromo-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.1 g) was reacted with tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole-1-carboxylate similar to as described in Example 4 and triturated from water to give 86 mg of 10-bromo-3-(1H-pyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. This intermediate was reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 5.5 mg of 10-(3-hydroxy-3-methyl-but-1-ynyl)-3-(1H-pyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 378 (M)+. NMR (400 MHz, DMSO) δ 13.10 (s, 1H), 8.57 (d, J=2.1 Hz, 1H), 8.11 (s, 1H), 7.81 (s, 1H), 7.54 (s, 1H), 7.29 (dd, J=8.4, 2.1 Hz, 1H), 7.10-6.95 (m, 2H), 5.43 (s, 1H), 4.49-4.40 (m, 2H), 4.35-4.25 (m, 2H), 1.49 (s, 6H).

reactant | 10-Bromo-3-iodo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.1 g | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)I)C1 | C12H9BrIN3O2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrazole-1-carboxylate | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
product | 10-bromo-3-(1H-pyrazol-4-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 86 mg | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C=3C=NNC3)C1 | C15H12BrN5O2
